US09169261B2
Synthesis of (S)—N-(1-(imidazo[1,2-a]pyrazin-8-yl)pyrrolidin-3-yl)-5-isopropylpyrimidine-2-carboxamide
To a suspension of (S)-1-(imidazo[1,2-a]pyrazin-8-yl)pyrrolidin-3-amine hydrochloride salt (84 mg, 0.3 mmol) and 5-isopropylpyrimidine-2-carboxylic acid (85 mg, 0.5 mmol) in DMF (5 mL) was added diethylisopropyl amine (650 mg, 5 mmol), followed by HATU (190 mg, 0.5 mmol). The resulting solution was stirred at room temperature for 1 h. The reaction mixture was diluted with ethyl acetate and washed with saturated aqueous solutions of KH2PO4 and NaHCO3, followed by brine. The organic layer was concentrated in vacuo and the residue purified by reverse phase HPLC (acetonitrile-H2O with 0.1% TFA as eluent) to give 35 mg of the title compound (32% yield) as a white solid. MS: (ES) m/z found 352.1.

reactant | (S)-1-(imidazo[1,2-a]pyrazin-8-yl)pyrrolidin-3-amine hydrochloride salt | 0.3 mmol, 84 mg | Cl.N=1C=CN2C1C(=NC=C2)N2C[C@H](CC2)N
reactant | 5-isopropylpyrimidine-2-carboxylic acid | 0.5 mmol, 85 mg | C(C)(C)C=1C=NC(=NC1)C(=O)O | C8H10N2O2
reactant | diethylisopropyl amine | 5 mmol, 650 mg | C(C)N(C(C)C)CC | C7H17N
reactant | HATU | 0.5 mmol, 190 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)—N-(1-(imidazo[1,2-a]pyrazin-8-yl)pyrrolidin-3-yl)-5-isopropylpyrimidine-2-carboxamide | 35 mg, 32% yield | N=1C=CN2C1C(=NC=C2)N2C[C@H](CC2)NC(=O)C2=NC=C(C=N2)C(C)C | C18H21N7O
